US07816557B2
4′-Isopropyl-2-methyl-biphenyl-4-ol
4-Bromo-3-methylphenol (1.87 g, 10 mmol), 4-isopropyl phenyl boronic acid (2.0 g, 12 mmol), potassium carbonate (4.1 g, 30 mmol) and palladium acetate (0.112 g, 0.5 mmol) are placed in water (100 mL). And the resulting mixture is stirred at room temperature over night under open air. The mixture is filtered through Celite and extracted with ethyl acetate (3×200 ml). The combined organic layers are washed with water, 1N HCl, water, brine, dried (MgSO4), concentrated and chromatographed to yield the title compound as a white solid (1.9 g).

reactant | 4-Bromo-3-methylphenol | 10 mmol, 1.87 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | 4-isopropyl phenyl boronic acid | 12 mmol, 2.0 g | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
reactant | potassium carbonate | 30 mmol, 4.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 mL | O | H2O
catalyst | palladium acetate | 0.5 mmol, 0.112 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4′-Isopropyl-2-methyl-biphenyl-4-ol | 1.9 g | C(C)(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)O)C | C16H18O
